***********************************************************************
* Given NFET parameter Id-Vg simulation
***********************************************************************
.OPTION POST=2 INGOLD=2 PROBE NOMOD
.TEMP 25

.HDL "../../va/cfet_nmos_lvt.va"

Vd d 0 DC 0
Vg g 0 DC 0
Vs s 0 DC 0
Vb b 0 DC 0

Xmn d g s b cfet_nmos_lvt
+ L=1.600000000000e-08 W=3.500000000000e-08 NF=1.000000000000e+00
+ U0=3.000000000000e-02 XL=1.200000000000e-08 DVTSHIFT=0.000000000000e+00
+ DeltaWGAA=0.000000000000e+00 DeltaTGAA=0.000000000000e+00
+ EOT_0=1.100000000000e-09

.DC Vg POI 309 -0.12 -0.115 -0.11 -0.105 -0.1 -0.095 -0.09 -0.085 -0.08 -0.075 -0.07 -0.065 -0.06 -0.055 -0.05 -0.045 -0.04 -0.035 -0.03 -0.025 -0.02 -0.015 -0.01 -0.005 0 0.005 0.01 0.015 0.02 0.025 0.03 0.035 0.04 0.045 0.05 0.055 0.06 0.065 0.07 0.075 0.08 0.085 0.09 0.095 0.1 0.105 0.11 0.115 0.12 0.125 0.13 0.135 0.14 0.145 0.15 0.155 0.16 0.165 0.17 0.175 0.18 0.185 0.19 0.195 0.2 0.205 0.21 0.215 0.22 0.225 0.23 0.235 0.24 0.245 0.25 0.255 0.26 0.265 0.27 0.275 0.28 0.285 0.29 0.295 0.3 0.305 0.31 0.315 0.32 0.325 0.33 0.335 0.34 0.345 0.35 0.355 0.36 0.365 0.37 0.375 0.38 0.385 0.39 0.395 0.4 0.405 0.41 0.415 0.42 0.425 0.43 0.435 0.44 0.445 0.45 0.455 0.46 0.465 0.47 0.475 0.48 0.485 0.49 0.495 0.5 0.505 0.51 0.515 0.52 0.525 0.53 0.535 0.54 0.545 0.55 0.555 0.56 0.565 0.57 0.575 0.58 0.585 0.59 0.595 0.6 0.605 0.61 0.615 0.62 0.625 0.63 0.635 0.64 0.645 0.65 0.655 0.66 0.665 0.67 0.675 0.68 0.685 0.69 0.695 0.7 0.705 0.71 0.715 0.72 0.725 0.73 0.735 0.74 0.745 0.75 0.755 0.76 0.765 0.77 0.775 0.78 0.785 0.79 0.795 0.8 0.805 0.81 0.815 0.82 0.825 0.83 0.835 0.84 0.845 0.85 0.855 0.86 0.865 0.87 0.875 0.88 0.885 0.89 0.895 0.9 0.905 0.91 0.915 0.92 0.925 0.93 0.935 0.94 0.945 0.95 0.955 0.96 0.965 0.97 0.975 0.98 0.985 0.99 0.995 1 1.005 1.01 1.015 1.02 1.025 1.03 1.035 1.04 1.045 1.05 1.055 1.06 1.065 1.07 1.075 1.08 1.085 1.09 1.095 1.1 1.105 1.11 1.115 1.12 1.125 1.13 1.135 1.14 1.145 1.15 1.155 1.16 1.165 1.17 1.175 1.18 1.185 1.19 1.195 1.2 1.205 1.21 1.215 1.22 1.225 1.23 1.235 1.24 1.245 1.25 1.255 1.26 1.265 1.27 1.275 1.28 1.285 1.29 1.295 1.3 1.305 1.31 1.315 1.32 1.325 1.33 1.335 1.34 1.345 1.35 1.355 1.36 1.365 1.37 1.375 1.38 1.385 1.39 1.395 1.4 1.405 1.41 1.415 1.42 SWEEP Vd POI 2 0.05 0.70
.PRINT DC V(g) V(d) I(Vd) PAR('-I(Vd)')

.END
